US07560569B2
(2S,4S)-1-[[N-Benzyloxycarbonyl-N-[4-carboxybicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (40.0 mg), along with 1-hydroxybenzotriazole, was dissolved in N,N-dimethylformamide (0.8 mL). While the solution was chilled in an ice bath, 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (41.9 mg) was added and the mixture was allowed to warm to room temperature and was stirred for 2 hours. Subsequently, 1-ethylpropylamine (13.2 μL) was added and the mixture was stirred for additional 17 hours. The solvent was evaporated under reduced pressure and the resulting residue was dissolved in dichloromethane. The organic layer washed sequentially with 0.1 N aqueous hydrochloric acid, saturated aqueous sodium bicarbonate solution and saturated brine. The organic layer was then dried over sodium sulfate and was concentrated under reduced pressure. The residue was purified by column chromatography (eluant:ethyl acetate) to give (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(N-1-ethylpropylamino)carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (46.0 mg).

reactant | (2S,4S)-1-[[N-Benzyloxycarbonyl-N-[4-carboxybicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 40.0 mg | C(C1=CC=CC=C1)OC(=O)N(C12CCC(CC1)(CC2)C(=O)O)CC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C24H28FN3O5
reactant | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 41.9 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-ethylpropylamine | 13.2 μL | C(C)C(CC)N | C5H13N
solvent | N,N-dimethylformamide | 0.8 mL | CN(C=O)C | C3H7NO
product | (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(N-1-ethylpropylamino)carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 46.0 mg | C(C1=CC=CC=C1)OC(=O)N(C12CCC(CC1)(CC2)C(=O)N(CC)CCC)CC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C29H39FN4O4
